US05773428
To N-t-butoxycarbonyltryptophan (3 mmol, 914 mg) and N-methylethanediamine (3.6 mmol, 0.27 g, 0.32 mL) in dry DMF (15 mL) were added 1-hydroxybenzotriazole.H2O (3 mmol, 459 mg) and EDCI (4.5 mmol, 863 mg). The mixture was stirred at room temperature overnight under argon and excess of the solvent (DMF) was removed under high vacuum at 35° C. The residue was dissolved in ethyl acetate (40 mL) and the adduct was extracted into 1N HCl (3×25 mL). The combined aqueous extract was basified with solid K2CO3 and extracted with ethyl acetate (3×25 mL). The combined organic extract was washed with brine (30 mL) and dried (MgSO4). Evaporation to dryness yielded 920 mg (85%) HPLC pure product, N'-t-butoxycarbonyltrytophan-N-((methyl)aminoethyl)-amide as a white foam.

reactant | N-t-butoxycarbonyltryptophan | 3 mmol, 914 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | N-methylethanediamine | 3.6 mmol, 0.32 mL, 0.27 g | CNC(C)N | C3H10N2
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | H2O | 3 mmol, 459 mg | O | H2O
reactant | EDCI | 4.5 mmol, 863 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N'-t-butoxycarbonyltrytophan-N-((methyl)aminoethyl)-amide | CNCCNC([C@@H](N)CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)=O | C19H28N4O3
